US04073892
A solution of 2.5 g of N2 -(4, 6-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-(2-methoxyethyl)glycine ethyl ester in 5 ml of ethanol and 7 ml of 1N NaOH solution was stirred for 30 hours at room temperature. At the end of this period, the solution was concentrated to 5 ml, chromatographed on 80 ml of Daiaion® SK 102 ion exchange resin (200-300 mesh, H+ form, manufactured by Mitsubishi Chemical Industries Limited) packed in water, washed with water, and eluted with 3% ammonium hydroxide solution. The fraction eluted from 3% ammonium hydroxide solution was evaporated to dryness, and the residue was purified by reprecipitation with ethanol-diethyl ether to give 1.32 g (72 percent) of N2 -(4, 6-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-(2-methoxyethyl)glycine as an amorphous solid, I.R. (KBr): 3,360, 3,180, 1,610 cm-1. Analysis Calcd. for C23H33N5O8S (percent): C, 51.20; H, 6.17; N, 12.98 Found (percent): C, 51.31; H, 6.01; N, 12.67.

reactant | N2 (4, 6-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-(2-methoxyethyl)glycine ethyl ester | 2.5 g | N#N.C(C)OC(CN(CCOC)C([C@@H](NS(=O)(=O)C1=CC2=CC=C(C=C2C(=C1)OC)OC)CCCNC(N)=N)=O)=O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | NaOH | 1N, 7 ml | [OH-].[Na+]
product | N2 (4, 6-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-(2-methoxyethyl)glycine | 1.32 g, 72 percent | N#N.COC1=CC(=CC2=CC=C(C=C12)OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N(CC(=O)O)CCOC | InChI=1S/C23H33N5O8S.N2/c1-34-10-9-28(14-21(29)30)22(31)19(5-4-8-26-23(24)25)27-37(32,33)17-11-15-6-7-16(35-2)12-18(15)20(13-17)36-3;1-2/h6-7,11-13,19,27H,4-5,8-10,14H2,1-3H3,(H,29,30)(H4,24,25,26);/t19-;/m0./s1
